US04051248
B. 1-[(3,4-Dihydro-2-naphthalenyl)methyl]-4-anilino isonipecotonitrile
A mixture of 1-[(3,4-dihydro-2-naphthalenyl)methyl]-4-oxopiperidine (24.0 g), aniline (9.3 g), and glacial acetic acid (70 ml) is cooled to 30° C and heated with a solution of potassium cyanide (7.2 g) in water (20 ml). The resulting mixture is stirred for 16 hours at room temperature. The reaction mixture is poured into aqueous ammonium hydroxide and extracted with chloroform. The organic solution is dried and concentrated to give the title compound.

reactant | 1-[(3,4-dihydro-2-naphthalenyl)methyl]-4-oxopiperidine | 24.0 g | C1=C(CCC2=CC=CC=C12)CN1CCC(CC1)=O | C16H19NO
reactant | aniline | 9.3 g | NC1=CC=CC=C1 | C6H7N
reactant | potassium cyanide | 7.2 g | [C-]#N.[K+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 20 ml | O | H2O
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 1-[(3,4-Dihydro-2-naphthalenyl)methyl]-4-anilino isonipecotonitrile | C1=C(CCC2=CC=CC=C12)CN1CCC(C#N)(CC1)NC1=CC=CC=C1 | C23H25N3
